US04402960
Under agitation and a layer of argon, a solution of 4.52 g of 4-chloro-3-nitrotrifluoromethylbenzene in 25 ml of dimethylformamide is added dropwise to a solution of 6.25 g of 4,5-bis(4-methoxyphenyl)-2-mercaptoimidazole and 0.6 g of sodium hydride (80% strength in white oil) in 200 ml of dimethylformamide. The solution is further stirred for 20 minutes, concentrated under vacuum, and the residue distributed between water and ethyl acetate. The organic solution is dried over sodium sulfate and concentrated to dryness under vacuum. The residue is crystallized from hexane/acetone, thus obtaining 9.44 g of 4,5-bis(4-methoxyphenyl)-2-(2-nitro-4-trifluoromethylphenylthio)imidazole in yellow needles, mp 264°-266°.

reactant | 4-chloro-3-nitrotrifluoromethylbenzene | 4.52 g | ClC1=C(C=C(C=C1)C(F)(F)F)[N+](=O)[O-] | C7H3ClF3NO2
reactant | 4,5-bis(4-methoxyphenyl)-2-mercaptoimidazole | 6.25 g | COC1=CC=C(C=C1)C=1N=C(NC1C1=CC=C(C=C1)OC)S | C17H16N2O2S
reactant | sodium hydride | 0.6 g | [H-].[Na+]
solvent | dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
product | 4,5-bis(4-methoxyphenyl)-2-(2-nitro-4-trifluoromethylphenylthio)imidazole | 9.44 g | COC1=CC=C(C=C1)C=1N=C(NC1C1=CC=C(C=C1)OC)SC1=C(C=C(C=C1)C(F)(F)F)[N+](=O)[O-] | C24H18F3N3O4S
